* E:\Praktyki\PUE_Board_2\Symulacje\10_AST_MULTIVIB_W_DC_DC_CONV.asc
Q1 Vvib1 N005 0 0 MMBTA06
Q2 Vvib2 N006 0 0 MMBTA06
C1 N005 Vvib2 10µ V=25 Irms=0 Rser=0.001 Lser=0 mfg="TDK" pn="C575OX7RIE106M" type="X7R"
C2 N005 Vvib2 1n
C3 Vvib1 N006 1n
C4 Vvib1 N006 10µ V=25 Irms=0 Rser=0.001 Lser=0 mfg="TDK" pn="C575OX7RIE106M" type="X7R"
C5 Vcc 0 220µ V=25 Irms=575m Rser=0.12 Lser=0 mfg="Panasonic" pn="ECA1EFQ221L" type="Al electrolytic"
R1 Vcc Vvib2 1k tol=1
R2 Vcc Vvib1 1k tol=1
R3 Vcc N005 100k tol=1
R4 Vcc N006 100k tol=1
R5 N007 Vvib1 10k tol=1
Q3 N002 N007 0 0 MMBTA06
R6 N004 N003 1k tol=1
D1 N004 N002 LedGreen
D2 N002 Vout MBRS140
L1 Vcc N002 100µ Ipk=0.52 Rser=0.77 Rpar=36357 Cpar=6p mfg="Wurth Elektronik" pn="74408943101 WE-SPC 4838"
R7 Vout 0 5.6k tol=1
C6 Vout 0 220µ V=25 Irms=575m Rser=0.12 Lser=0 mfg="Panasonic" pn="ECA1EFQ221L" type="Al electrolytic"
R8 N001 Vred 10k tol=1
D3 Vred 0 LedRed
V1 Vcc 0 5
.model D D
.lib C:\Users\pawel\OneDrive\Dokumenty\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\pawel\OneDrive\Dokumenty\LTspiceXVII\lib\cmp\standard.bjt
* --|\n  |\n--|Select OUT\n  |\n--|
.tran 20
.backanno
.end
